US04461895
12.0 g. (2.7 mmol) (±)-5,6,6a,7-Tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline are dissolved in 25 ml. ethanol and mixed with 560 mg. sodium bicarbonate and 0.26 ml. (2.95 mmol) propargyl bromide. The reaction mixture is stirred for 1 hour at ambient temperature and then for 2 hours at 80° C. under reflux. The usual working up and crystallisation from ethanol gives (±)-6-propargyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline;

reactant | (±)-5,6,6a,7-Tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline | 2.7 mmol | OC1=C(C=C2CCNC3CC4=C(C1=C23)C=C(C(=C4)OC)OC)OC | C19H21NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | propargyl bromide | 2.95 mmol | C(C#C)Br | C3H3Br
solvent | ethanol | C(C)O | C2H6O
product | (±)-6-propargyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline | C(C#C)N1CCC=2C3=C(C4=C(CC13)C=C(C(=C4)OC)OC)C(=C(C2)OC)O | C22H23NO4
